US06255323B1
1-(4-Ethoxy-phenyl)-3-[4-(N′-cyano-N″-pyridin4-yl-guanidinomethyl)-phenyl]-urea (SBR-11-3831) was synthesized as follows
N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine (100 mg, 0.380 mmol) and 1-ethoxy-4-isocyanato-benzene (61 mg,, 0.39 mmol) were dissolved in and mixture of N,N-dimethylformamide (2.0 mL).and tetrahydrofuran (1.0 mL). Triethylamine (0.060 mL, 0.390 mmol) was added. The reaction mixture was shaken at room temperature for 12 hours. The solvent was removed in vacuo to give the title compound (yield=85%). 1H NMR (DMSO-d6, ppm): 8.34 (br, s, 2H); 7.41-7.21 (m, 10H); 6.82-6.76 (m, 2H); 4.43 (s, 2H); 3.93 (dq, 2H); 1.28 (dt, 3H).

reactant | N-(4-Amino-benzyl)-N′-cyano-N″-quinolin-5-yl-guanidine | 0.380 mmol, 100 mg | NC1=CC=C(CNC(=NC2=C3C=CC=NC3=CC=C2)NC#N)C=C1 | C18H16N6
reactant | 1-ethoxy-4-isocyanato-benzene | 0.39 mmol, 61 mg | C(C)OC1=CC=C(C=C1)N=C=O | C9H9NO2
reactant | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
reactant | Triethylamine | 0.390 mmol, 0.060 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 1-(4-Ethoxy-phenyl)-3-[4-(N′-cyano-N″-pyridin4-yl-guanidinomethyl)-phenyl]-urea | yield=85% | C(C)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)CNC(=NC#N)NC1=CC=NC=C1 | C23H23N7O2
